US07388103B2
Ethyl 1-iso-butyl-2-oxocyclopentane carboxylate
Under vigorously agitation, 13.9 g of ethyl 2-oxocyclopentane carboxylate was added to 33.4 g of fine powdery anhydrous potassium carbonate and 1.14 g of benzyl triethyl ammonium chloride. After stirring for several minutes, to the mixture was added 60 ml of N,N-dimethyl formamide and 21.9 g of iso-butyl bromide. Upon the completion of the addition, the reaction was heated to 55° C. and allowed to continue for 6 hours with stirring. The solvent was removed under reduced pressure, and solid residue was washed with diethyl ether. The washing liquor was collected and washed with water, and removing the solvent gave a crude product. The crude product was distilled under reduced pressure, and 15.3 g of colorless liquid as a distillate cut of 139-142° C./15 mmHg was colleted. Yield: 90.0%.

reactant | ethyl 2-oxocyclopentane carboxylate | 13.9 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | potassium carbonate | 33.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iso-butyl bromide | 21.9 g | C(C(C)C)Br | C4H9Br
catalyst | benzyl triethyl ammonium chloride | 1.14 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | N,N-dimethyl formamide | 60 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-iso-butyl-2-oxocyclopentane carboxylate | Yield: 90.0% | C(C(C)C)C1(C(CCC1)=O)C(=O)OCC | C12H20O3
